US08471005B2
916A 1,2,3,4-Tetrahydro-isoquinolin-6-ylamine.
6-Amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (0.345 g, 1.39 mmol) was treated with Trifluoroacetic Acid (0.418 mL, 5.42 mmol) in Methylene chloride (3.00 mL). Partial conversion after 3 h, added additional 1 ml TFA and allowed to stir at rt for 16 h. Complete conversion to more polar peak on LCMS. Reaction mixture was concentrated to an orange film which was used without purification in the next reaction.

reactant | 6-Amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.39 mmol, 0.345 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N | C14H20N2O2
reactant | Trifluoroacetic Acid | 5.42 mmol, 0.418 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Methylene chloride | 3.00 mL | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-Tetrahydro-isoquinolin-6-ylamine | C1NCCC2=CC(=CC=C12)N | C9H12N2
